US04216312
2,4,5-Trimethyl-3-carbethoxyfuran (40 g.) prepared in accordance with Helv. Chim. Acta., v. 15, 1112 (1932), was dissolved in ether (200 ml.) and added to a cooled slurry of lithium aluminum hydride (10 g.) in ether (200 ml.) After stirring a further 16 hours at room temperature a saturated, aqueous solution of sodium sulfate was added followed by the addition of magnesium sulfate (50 g.). The solids were filtered off and the solvents were concentrated to give crude alcohol, 2,4,5-trimethyl-3-hydroxymethyl furan (31 g.). A solution of this alcohol (4.2 g.) in dichloromethan (10 ml.) was added to a cooled slurry of triphenylphosphine hydrobromide (10 g.) in dichloromethane (40 ml.) and then left at room temperature for 15 minutes. Ether was then added and the solids formed were crystallized from a 1:5 parts by volume mixture of methanol and ethylacetate to give pure (2,4,5-trimethyl-3-furyl) methyl triphenylphosphonium bromide (10.2 g.) m.p. 223°-224°.

reactant | 2,4,5-Trimethyl-3-carbethoxyfuran | 40 g | CC=1OC(=C(C1C(=O)OCC)C)C | C10H14O3
reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | magnesium sulfate | 50 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,4,5-trimethyl-3-hydroxymethyl furan | 31 g | CC=1OC(=C(C1CO)C)C | C8H12O2
